US04631081
3-Cyano-2,6-dimethylpyrid-4-one was prepared from 3-aminocrotononitrile and diketene following the procedure of Kato et al (Yakugaku Zasshi 91, 740, 1971).

reactant | 3-aminocrotononitrile | N\C(=C/C#N)\C | C4H6N2
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 3-Cyano-2,6-dimethylpyrid-4-one | C(#N)C1C(=NC(=CC1=O)C)C | C8H8N2O
